US06956050B2
STEP 1. 4-methoxy-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate and 4-methoxybenzenesulfonamide. MS (ESI) m/z 505 [M+H]+, 503 [M−H]−, 1H-NMR (CDCl3) δ 1.25 (3H, t, J=7.5 Hz), 2.72 (2H, q, J=7.5 Hz), 2.91 (2H, t, J=6.8 Hz), 3.40-3.55 (2H, m), 6.64 (1H, br), 6.96 (2H, d, J=9.0 Hz), 7.20-7.30 (5H, m), 7.38 (2H, t, J=7.3 Hz), 7.74 (2H, d, J=9.0 Hz), 7.79 (2H, d, J=8.4 Hz).

reactant | 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate | C(C)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCNC([O-])=O
reactant | 4-methoxybenzenesulfonamide | COC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
product | 4-methoxy-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide | COC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C27H28N4O4S
